US08735424B2
A solution of 2-bromo-6-methoxypyridine (1.0 equiv.), 2,6 difluorophenylboronic acid (2 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) in 3:1 DME/2M Na2CO3 was heated at 110° C. for 48 hours. Upon cooling, the solution was partitioned between EtOAc and Na2CO3(sat.) washed further with NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (10-20% EtOAc/hexanes eluant) to yield the Suzuki product. The material was treated with dioxane/H2O/HCl(conc.) in a 3:1:0.25 ratio at 100° C. for 72 hours. Upon removal of the volatiles in vacuo, a solution of the crude hydroxylpyridine (1.0 equiv.), diisopropylethylamine (2.0 equiv.), and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.5 equiv.) in CH2Cl2 was stirred for 16 hours. The solution was partitioned between EtOAc and Na2CO3(sat.). Upon separation, the organic layer was washed further with Na2CO3(sat.) and NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography to yield 6-(2,6-difluorophenyl)pyridin-2-yl trifluoromethanesulfonate.

reactant | 2-bromo-6-methoxypyridine | 1.0 equiv. | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | 2,6 difluorophenylboronic acid | 2 equiv. | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | hydroxylpyridine | 1.0 equiv. | OC1=NC=CC=C1 | C5H5NO
reactant | diisopropylethylamine | 2.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.5 equiv. | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 2M | COCCOC | C4H10O2
product | 6-(2,6-difluorophenyl)pyridin-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NC(=CC=C1)C1=C(C=CC=C1F)F)(F)F | C12H6F5NO3S
